US06143741
17.5 g (0.05 mole) of N-[2-hydroxy-3-(1-piperidinyl)propoxy]-3-pyridinecarbox-imidamide dihydrochloride was dissolved in 50 ml of thionyl chloride, boiled for one hour, then the mixture was evaporated to dryness. The residue was dissolved in 300 ml of methanol, treated with charcoal and after filtration the solvent was evaporated in reduced pressure. The residue was dissolved in the minimum amount of ethanol and refrigerated to yield crystalline N-[2-chloro-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidamide dihydrochloride as intermediate compound.

reactant | N-[2-hydroxy-3-(1-piperidinyl)propoxy]-3-pyridinecarbox-imidamide dihydrochloride | 0.05 mole, 17.5 g | Cl.Cl.OC(CONC(=N)C=1C=NC=CC1)CN1CCCCC1
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | N-[2-chloro-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidamide dihydrochloride | Cl.Cl.ClC(CONC(=N)C=1C=NC=CC1)CN1CCCCC1 | InChI=1S/C14H21ClN4O.2ClH/c15-13(10-19-7-2-1-3-8-19)11-20-18-14(16)12-5-4-6-17-9-12;;/h4-6,9,13H,1-3,7-8,10-11H2,(H2,16,18);2*1H
